US03936468
To a stirred mixture of 2.0 g of lithium aluminum hydride and 180 ml of tetrahydrofuran at room temperature, was added 4.6 g of 1-[1-(β-p-fluorobenzoylpropionyl)-4-piperidyl]-2-oxobenzimidazoline portionwise over a period of about 10 minutes. The mixture was further stirred at room temperature for one hour, then gradually heated to 60°C over a period of one hour, stirred for additional 4 hours at 60° - 65°C, and then cooled in ice. To the reaction mixture was carefully added 20 milliliters of cold water, and the precipitate formed was filtered off. The filtrate was added with 6 ml of acetic acid, and the tetrahydrofuran was removed by distillation under reduced pressure. The residue was made slightly alkaline by adding a 14% aqueous ammonia, and the solid precipitated was collected by filtration, dried, and recrystallized from toluene to obtain a white crystalline powder of 1-(p-fluorophenyl)-4-[4-(2-oxo-1-benzimidazolinyl)-piperidino]-1-butanol, melting at 160° - 161° C.

reactant | lithium aluminum hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
reactant | 1-[1-(β-p-fluorobenzoylpropionyl)-4-piperidyl]-2-oxobenzimidazoline | 4.6 g | FC1=CC=C(C(=O)CCC(=O)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=C1 | C22H22FN3O3
solvent | water | 20 milliliters | O | H2O
product | 1-(p-fluorophenyl)-4-[4-(2-oxo-1-benzimidazolinyl)-piperidino]-1-butanol | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)O | C22H26FN3O2
